US07932279B2
2,4-Bis-benzyloxy-5-bromo-benzoic acid benzyl ester (47.8 g, 95 mmol) was then dissolved in mixture of tetrahydrofuran (150 ml) and water (150 ml). LiOH (7.2 g, 0.3 mol) was added, and the resulting mixture was stirred at 80° C. overnight. After the reaction was complete, the reaction was cooled to r.t., acidified with 1M HCl to pH=1. After extraction with Et2O (500 ml×3), the combined organics were washed with water (250 ml) and saturated brine (250 ml) and dried over Na2SO4. After filtration and concentration, 2,4-bis-benzyloxy-5-bromobenzoic acid was obtained as a white solid (37.7 g, 96%). M.p.: 116-119° C.; 400 MHz 1H NMR (CDCl3) δ: 8.36 (s, 1H), 7.45-7.33 (m, 10H), 6.59 (s, 1H); 5.19 (s, 2H), 5.17 (s, 2H); LCMS: 413, 415 [M+H].

reactant | 2,4-Bis-benzyloxy-5-bromo-benzoic acid benzyl ester | 95 mmol, 47.8 g | C(C1=CC=CC=C1)OC(C1=C(C=C(C(=C1)Br)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C28H23BrO4
reactant | LiOH | 0.3 mol, 7.2 g | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 2,4-bis-benzyloxy-5-bromobenzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)Br | C21H17BrO4
